US08008518B2
972 g (2.7 mol) of di-n-octyl tin oxide (Sankyo Organic Chemicals Co., Ltd., Japan) and 2100 g (23.9 mol) of 3-methyl-1-butanol were placed in a 5000 mL volumetric pear-shaped flask. The flask was connected to an evaporator to which was connected an oil bath equipped with a temperature controller, a vacuum pump and a vacuum controller. The purge valve outlet of the evaporator was connected to a line containing nitrogen gas flowing at normal pressure. After closing the purge valve of the evaporator to reduce pressure inside the system, the purge valve was opened gradually to allow nitrogen to flow into the system and return to normal pressure. The oil bath temperature was set to about 145° C., the flask was immersed in the oil bath and rotation of the evaporator was started. After heating for about 40 minutes in the presence of atmospheric pressure nitrogen with the purge valve of the evaporator left open, distillation of 3-methyl-1-butanol containing water began. After maintaining in this state for 7 hours, the purge valve was closed, pressure inside the system was gradually reduced, and excess 3-methyl-1-butanol was distilled with the pressure inside the system at from 74 to 35 kPa. After the fraction no longer appeared, the flask was taken out of the oil bath. After allowing the flask to cool to the vicinity of room temperature (25° C.), the purge valve was opened gradually and the pressure inside the system was returned to atmospheric pressure. 1176 g of reaction liquid were obtained in the flask. Based on the results of 119Sn-, 1H- and 13C-NMR analyses, 1,1,3,3-tetra-n-butyl-1,3-bis(3-methylbutyloxy) distannoxane was confirmed to have been obtained at a yield of 99% based on the di-n-octyl tin oxide. The same procedure was then repeated 12 times to obtain a total of 14120 g of 1,1,3,3-tetra-n-octyl-1,3-bis(3-methylbutyloxy) distannoxane.

reactant | di-n-octyl tin oxide | 2.7 mol, 972 g | C(CCCCCCC)[Sn](CCCCCCCC)=O
reactant | 3-methyl-1-butanol | 23.9 mol, 2100 g | CC(CCO)C | C5H12O
product | 1,1,3,3-tetra-n-butyl-1,3-bis(3-methylbutyloxy) distannoxane | yield of 99% | C(CCC)[Sn](O[Sn](OCCC(C)C)(CCCC)CCCC)(OCCC(C)C)CCCC | InChI=1S/2C5H11O.4C4H9.O.2Sn/c2*1-5(2)3-4-6;4*1-3-4-2;;;/h2*5H,3-4H2,1-2H3;4*1,3-4H2,2H3;;;/q2*-1;;;;;;2*+1
